US05521177
4'-[[2-Ethyl-4-methyl-6-(3,3-dimethyl-2-methylsulphonyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 14b from 4'-[[2-ethyl-4-methyl-6-(2-phenoxy-3-methylsulphonyl-isoureido)-1H-benzimidazol -1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl and dimethylamine.

reactant | 4'-[[2-ethyl-4-methyl-6-(2-phenoxy-3-methylsulphonyl-isoureido)-1H-benzimidazol -1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC(OOC2=CC=CC=C2)=NS(=O)(=O)C | C32H30N8O4S
reactant | dimethylamine | CNC | C2H7N
product | 4'-[[2-Ethyl-4-methyl-6-(3,3-dimethyl-2-methylsulphonyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC(=NS(=O)(=O)C)N(C)C | C28H31N9O2S
